US06124456
Into a mixture of 3-(2-cyanomethyl-3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (2.0 g) and triethylamine (1.02 ml) in pyridine (10 ml) was introduced hydrogen sulfide at 50° C. for 6 hours. The mixture was poured into water. The resulting solid was collected by filtration to give 3-(3-oxo-2-thiocarbamoylmethyl-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine (2.18 g).

reactant | 3-(2-cyanomethyl-3-oxo-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 2.0 g | C(#N)CN1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C19H13N5O
reactant | triethylamine | 1.02 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen sulfide | S | H2S
reactant | water | O | H2O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(3-oxo-2-thiocarbamoylmethyl-2,3-dihydropyridazin-6-yl)-2-phenylpyrazolo[1,5-a]pyridine | 2.18 g | O=C1N(N=C(C=C1)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)CC(N)=S | C19H15N5OS
